US07094780B1
(j) 3-(Benzyloxyiminomethyl)-2,4,5-trifluorobenzoic acid ethyl ester
3-(Benzyloxyiminomethyl)-2,4,5-trifluorobenzoic acid (0.117 g, 0.378 mmol), 4-dimethylaminopyridine (0.023 g, 0.189 mmol), anhydrous ethanol (0.030 mL, 0.517 mmol) are mixed in dichloromethane (6 mL), cooled to 0° C., and treated with 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.082 g, 0.427 mmol). After 2 hours at 0° C. and room temperature for 21 hours, the solvents are evaporated. The residue is dissolved in chloroform, washed with saturated NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated in vacuo. Purification by chromatography (1:8 ethyl acetate/hexanes) provided the title compound (0.068 g). 1H NMR (200 MHz, CDCl3): δ 8.27 (s, 1H), 7.87–7.66 (m, 1H), 7.49–7.28 (m, 5H), 5.27 (s, 2H), 4.48–4.29 (q, 2H), 1.46–1.31 (t, 3H).

reactant | 3-(Benzyloxyiminomethyl)-2,4,5-trifluorobenzoic acid | 0.378 mmol, 0.117 g | C(C1=CC=CC=C1)ON=CC=1C(=C(C(=O)O)C=C(C1F)F)F | C15H10F3NO3
reactant | ethanol | 0.517 mmol, 0.030 mL | C(C)O | C2H6O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.427 mmol, 0.082 g | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 0.189 mmol, 0.023 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 3-(Benzyloxyiminomethyl)-2,4,5-trifluorobenzoic acid ethyl ester | 0.068 g | C(C)OC(C1=C(C(=C(C(=C1)F)F)C=NOCC1=CC=CC=C1)F)=O | C17H14F3NO3
